US05977131
A mixture of 1 g (3.26 mM) of 6-Chloro-3-(2-iodo-ethyl)-1H-pyrrolo[2,3-b]pyridine and 0.49 g (3.26 mM) Nal were mixed together in 100 mL of an ethanol solution saturated with methyl amine gas. This solution was heated to 100° C. in a steel bomb for 12 hours. The reaction mixture was cooled to room temperature and the solvent evaporated. The residue was chromatographed on silica using a mixture of 10:1 CH2Cl6 : CH3OH as the elutant. The appropriate fractions were combined and evaporated. The residue was crystallized from isopropyl ether-methanol to yield 140 mg of [2-(6-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethyl]-methyl-amine. MP=214-215° C. NMR (D6DMSO) δ11.75 (s, 1H), 8.08 (d, 1H), 7.41 (s, 1H), 7.15 (d, 1H), 3.20 (t, 2H), 3.02 (t, 2H), 2.60 (s, 3H). 13C NMR (D6DMSO) 147.5, 143.2, 129.9, 124.8, 118.2, 114.8, 108.7, 48.4, 32.6, 21.6. Mass spectrum: m/e=210, 212(P+1, P+3).

reactant | 6-Chloro-3-(2-iodo-ethyl)-1H-pyrrolo[2,3-b]pyridine | 3.26 mM, 1 g | ClC1=CC=C2C(=N1)NC=C2CCI | C9H8ClIN2
reactant | Nal | 3.26 mM, 0.49 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | methyl amine | CN | CH5N
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | [2-(6-Chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethyl]-methyl-amine | 140 mg | ClC1=CC=C2C(=N1)NC=C2CCNC | C10H12ClN3
